US06217729B1
After the titanium substrate surface was roughened, it was painted with a n-butanol solution containing salts of iridium and tantalum in a ratio of iridium to tantalum of approximately 65% to 35% by weight. The applied solution was allowed to dry at ambient temperature for approximately 20 minutes. The painted titanium substrate was subsequently heat treated in a furnace having an oxygen containing atmosphere at approximately 500° C. for approximately 20-30 minutes to form an iridium oxide/tantalum oxide composite coating. The process of painting and heat treating the titanium substrate was repeated in order to obtain a total loading of about 2.0 g/m2. After this loading was achieved, the painted substrate was heat treated for approximately one hour at approximately 500° C.

reactant | iridium | [Ir] | Ir
reactant | tantalum | [Ta] | Ta
reactant | n-butanol | C(CCC)O | C4H10O
catalyst | titanium | [Ti] | Ti
product | iridium oxide tantalum oxide | [Ir]=O.[O-2].[Ta+5].[O-2].[O-2].[O-2].[O-2].[Ta+5] | InChI=1S/Ir.6O.2Ta/q;;5*-2;2*+5
